US04668697
To a stirred solution of 5-aminobenzo[b]thiophene (4.55 g, 0.03 mole) in CH3CN (175 ml) was added 37% aqueous formaldehyde (28 ml, 0.035 mole) followed by sodium cyanoborohydride (6.65 g, 0.105 mole). Glacial acetic acid (3.5 ml) was added in small increments over 15 minutes. After 1 hour, another 3.5 ml of acetic acid was added and after another 1 hour, the mixture was poured into ether (700 ml). The ethereal layer was separated, washed with lM KOH (3×) then with saturated NaCl solution, dried over anhydrous Na2SO4, and evaporated to dryness in vacuo. The residual dark oily solid was purified by chromatography on 800 ml of silica gel. Elution with 97 hexane:3 ethyl acetate afforded 4.6 g (88%) of 5-(dimethyl)aminobenzo[b]thiophene as a light yellow solid, m.p. 52°-54° C.

reactant | 5-aminobenzo[b]thiophene | 0.03 mole, 4.55 g | NC1=CC2=C(SC=C2)C=C1 | C8H7NS
reactant | formaldehyde | 0.035 mole, 28 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.105 mole, 6.65 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | CH3CN | 175 ml | CC#N | C2H3N
solvent | ether | 700 ml | CCOCC | C4H10O
product | 5-(dimethyl)aminobenzo[b]thiophene | 4.6 g, 88% | CN(C1=CC2=C(SC=C2)C=C1)C | C10H11NS
